US07671080B2
5-Chloro-1-(5-tert-butyl-2-methoxybenzyl)-1H-indole-2-carboxylic acid (3-hydroxy-2,2-dimethylpropyl)amide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.11 g, 0.57 mmol) followed by 1-hydroxybenzotriazole hydrate (0.08 g, 0.59 mmol) were added to a solution of 1-(5-tert-butyl-2-methoxybenzyl)-5-chloro-1H-indole-2-carboxylic acid (0.20 g, 0.54 mmol) in DCM (10.0 ml) and after stirring for 10 min, 3-amino-2,2-dimethylpropan-1-ol (67 mg, 0.65 mmol) was added. After stirring for 17.5 h, water (10 ml) was added, the layers separated, the organic washed with water (3×15 ml) and dried with magnesium sulfate. Purification was achieved by chromatography on silica using DCM:methanol (3:1) as eluent. Crystallisation of the crude afforded the title compound as a white solid (90 mg, 36%).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.57 mmol, 0.11 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.59 mmol, 0.08 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(5-tert-butyl-2-methoxybenzyl)-5-chloro-1H-indole-2-carboxylic acid | 0.54 mmol, 0.20 g | C(C)(C)(C)C=1C=CC(=C(CN2C(=CC3=CC(=CC=C23)Cl)C(=O)O)C1)OC | C21H22ClNO3
reactant | 3-amino-2,2-dimethylpropan-1-ol | 0.65 mmol, 67 mg | NCC(CO)(C)C | C5H13NO
solvent | DCM | 10.0 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 5-Chloro-1-(5-tert-butyl-2-methoxybenzyl)-1H-indole-2-carboxylic acid (3-hydroxy-2,2-dimethylpropyl)amide | 90 mg, 36% | OCC(CNC(=O)C=1N(C2=CC=C(C=C2C1)Cl)CC1=C(C=CC(=C1)C(C)(C)C)OC)(C)C | C26H33ClN2O3
